US08207168B2
A mixture of 1-(4-(3-chloropropoxy)-3,5-difluoro-phenyl]ethanone (11 g, 44.7 mmol) and glyoxalic acid monohydrate (4.2 g, 46.5 mmol) in acetic acid (16 mL) was stirred at 100° C. for 4 h. The acetic acid was evaporated at reduced pressure and diluted with water then cooled to 0° C. and neutralized with ammonium hydroxide to pH 8. To this mixture, hydrazine monohydrate (4.3 mL, 86 mmol) was added and heated at 100° C. for 1 h. The reaction was cooled to rt and the solid was filtered, then dried to give a crude product. The crude product was triturated sequentially with 5% aqueous sodium bicarbonate solution and with a mixture of methylene chloride, methanol, ether and hexane to provide relatively pure product. The product was purified by ISCO (120 g silica gel column) chromatography using 2 to 8% methanol in methylene chloride to furnish 6-[4-(3-chloropropoxy)-3,5-difluorophenyl]-2H-pyridazin-3-one (7.9 g, 59%), MS m/z 301 (M+H).

reactant | 1-(4-(3-chloropropoxy)-3,5-difluoro-phenyl]ethanone | 44.7 mmol, 11 g | ClCCCOC1=C(C=C(C=C1F)C(C)=O)F | C11H11ClF2O2
reactant | glyoxalic acid monohydrate | 46.5 mmol, 4.2 g | O.C(C=O)(=O)O
reactant | hydrazine monohydrate | 86 mmol, 4.3 mL | O.NN
solvent | acetic acid | 16 mL | C(C)(=O)O | C2H4O2
product | 6-[4-(3-chloropropoxy)-3,5-difluorophenyl]-2H-pyridazin-3-one | 7.9 g, 59% | ClCCCOC1=C(C=C(C=C1F)C=1C=CC(NN1)=O)F | C13H11ClF2N2O2
